US08022062B2
4-Cyclopentyloxy-benzylamine:
Add a solution of 1M BH3-THF complex in THF (4.8 mL, 4.8 mmol) to neat 4-cyclopentyloxy-benzonitrile (300 mg, 1.6 mmol) and stir the mixture for 3 h at room temperature and then for 3 h at reflux. Cool to room temperature, pour the reaction into 2N aqueous HCl (10 mL) and stir the mixture for 1 h at room temperature then concentrate in vacuo. Dissolve the crude mixture in methanol and filter through SCX column eluting with methanol followed by 3M ammonia in methanol to obtain the title compound (223 mg, 73%).

reactant | THF | 4.8 mmol, 4.8 mL | C1CCOC1 | C4H8O
reactant | 4-cyclopentyloxy-benzonitrile | 1.6 mmol, 300 mg | C1(CCCC1)OC1=CC=C(C#N)C=C1 | C12H13NO
solvent | HCl | 2N, 10 mL | Cl | ClH
product | 4-Cyclopentyloxy-benzylamine | 223 mg, 73% | C1(CCCC1)OC1=CC=C(CN)C=C1 | C12H17NO
